US08624034B2
Step C) (2R)-4-{5-Fluoro-2-oxo-4-[4-(2H-1,2,3-triazol-2-yl)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoic acid
Potassium hydroxide (1.30 g, 23.2 mmol) was added to a solution of ethyl (2R)-4-{5-fluoro-2-oxo-4-[4-(2H-1,2,3-triazol-2-yl)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoate (1.54 g, 3.33 mmol) in 2-methyltetrahydrofuran:water (2:1 42.5 mL) and the solution was stirred at rt overnight. Methanol (5 mL) was added and the reaction was heated to 60° C. The reaction mixture was stirred at this temperature for 2 h. The reaction was concentrated and triturated in 3 M aq HCl. The solid was collected via filtration and washed with water (20 mL) and hexanes (20 mL). The solid was dried under vacuum to afford the title compound as a white solid (1.39 g, 96.1%). MS (LCMS) m/z 435.0 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.58 (s, 3H) 2.13-2.30 (m, 0H) 2.41-2.61 (m, 1H) 3.17 (s, 3H) 3.89-4.13 (m, 2H) 6.59 (d, J=7.81 Hz, 1H) 6.56-6.63 (m, 1H) 7.79 (dd, J=8.78, 1.76 Hz, 3H) 8.09 (d, J=6.83 Hz, 1H) 8.12-8.17 (m, 2H) 8.19 (s, 2H).

reactant | Potassium hydroxide | 23.2 mmol, 1.30 g | [OH-].[K+]
reactant | ethyl (2R)-4-{5-fluoro-2-oxo-4-[4-(2H-1,2,3-triazol-2-yl)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoate | 3.33 mmol, 1.54 g | FC=1C(=CC(N(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)N1N=CC=N1 | C21H23FN4O5S
reactant | Methanol | 5 mL | CO | CH4O
solvent | 2-methyltetrahydrofuran water | 42.5 mL | CC1OCCC1.O
product | (2R)-4-{5-Fluoro-2-oxo-4-[4-(2H-1,2,3-triazol-2-yl)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoic acid | 1.39 g, 96.1% | FC=1C(=CC(N(C1)CC[C@](C(=O)O)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)N1N=CC=N1 | C19H19FN4O5S
